US04368328
2-[(Methoxycarbonyl)amino]-5-propylthio-1H-benzimidazole
Into 100 ml. of a 10% aqueous hydrochloric acid solution 1.5 g. of Sn powder are added at 0° to 10° C., followed by the addition of 10.8 g. (0.033 moles) of 2-[(methoxycarbonyl)amino]-1H-benzimidazol-5-sulfonic acid chloride hydrochloride. The reaction mixture is stirred at the same temperature for one hour. Thereafter 10 g. of Fe powder are added and it is stirred at 25° to 30° C. for 6 hours. The metals are dissolved and 2-[(methoxycarbonyl)amino]-1H-benzimidazole-5-thiol precipitates. The precipitate is filtered off, dissolved in a 10% aqueous potassium hydroxide solution and is subsequently reacted with 6 ml. of n-propyl bromide at 40° to 45° C.

reactant | hydrochloric acid | 1.5 g | Cl | ClH
reactant | 2-[(methoxycarbonyl)amino]-1H-benzimidazol-5-sulfonic acid chloride hydrochloride | 0.033 moles | Cl.COC(=O)NC1=NC2=C(N1)C=CC(=C2)S(=O)(=O)Cl
reactant | n-propyl bromide | CCCBr | C3H7Br
catalyst | Fe | [Fe] | Fe
product | 2-[(Methoxycarbonyl)amino]-5-propylthio-1H-benzimidazole | COC(=O)NC1=NC2=C(N1)C=CC(=C2)SCCC | C12H15N3O2S
